US04273932
Synthesis of 5-Acetamido-4-hydroxy-5,6,7,8-tetrahydroquinoline-3-carboxylic Acid
5-Acetamido-4-hydroxy-5,6,7,8-tetrahydroquinoline-3-carboxylic acid ethyl ester (0.8 g) was suspended in 20 ml of 1 N sodium hydroxide. The resulting reaction mixture was heated on an oil bath at 110° C. for 2 hours. After being cooled, the reaction mixture was filtered to remove the insoluble matter, and the filtrate was adjusted to pH 2.5 with dilute hydrochloric acid. The precipitate so formed was separated by filtration to obtain a yield of 0.4 g of the desired compound. This compound melted (and decomposed) at 285°-287° C. (uncorrected values). Its infrared absorption spectrum (KBr tablet) had absorption peaks at 3420, 3340, 3260, 3080, 2940, 1710, 1650, 1635, 1290, and 810 cm-1. and its n.m.r. spectrum (CF3COOH, 60Mc, TMS) had signals at δ values of 1.8-2.6 (4H, m), 2.43 (3H, s), 2.9-3.5 (2H, m), 5.72 (1H, d, J=8.3 Hz), 8.47 (1H, d, J=8.3 Hz), and 9.0-9.3 (1H, m).

reactant | 5-Acetamido-4-hydroxy-5,6,7,8-tetrahydroquinoline-3-carboxylic acid ethyl ester | 0.8 g | C(C)OC(=O)C=1C=NC=2CCCC(C2C1O)NC(C)=O | C14H18N2O4
solvent | sodium hydroxide | 1 N, 20 ml | [OH-].[Na+]
product | 5-Acetamido-4-hydroxy-5,6,7,8-tetrahydroquinoline-3-carboxylic Acid | yield of 0.4 g | C(C)(=O)NC1C=2C(=C(C=NC2CCC1)C(=O)O)O | C12H14N2O4
